US04378357
A. Preparation of 2-(2-hydroxyprop-2-yl)-1 methylimidazole
The 1-methylimidazole was dissolved in dry THF and the solution cooled to 5° C. A 10% excess n-butylithium was added over one hour period with the reaction vessel being maintained at a temperature range of 5°-20° C. under nitrogen. The solution at the end of the addition was homogenous and purplish in color. After stirring two hours at room temperature, the reaction flask was then cooled to ~10° C. and the acetone in dry THF was added slowly with stirring. After the addition the solution was allowed to stir at ambient temperature one hour then poured onto ice-water. The aqueous layer was acidified with dilute HCl and extracted with ether. The aqueous layer was then basified with K2CO3 then extracted with CH2Cl2 several times. The combined and dried CH2Cl2 extracts were concentrated to yield a white solid which was recrystallized from ethyl acetate; mp 128°-129° C. Structure was confirmed by IR and NMR.

reactant | 1-methylimidazole | CN1C=NC=C1 | C4H6N2
reactant | acetone | CC(=O)C | C3H6O
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2-hydroxyprop-2-yl)-1 methylimidazole | OC(C)(C)C=1N(C=CN1)C | C7H12N2O
